US08252797B2
A mixture of 1,3-dipropyl-8-(1H-pyrazol-4-yl)-7-(2-trimethylsilanyl-ethoxymethyl)-3,7-dihydro-purine-2,6-dione (0.200 g, 0.462 mmol), 4-(2-Bromo-acetyl)-1-(3-trifluoromethyl-phenyl)-pyrrolidin-2-one (0.240 g, 0.693 mmol), Cs2CO3 (0.30 g, 0.924 mmol) and acetonitrile (2 ml) were heated at 90-100° C. in a sealed tube for 6 hrs. Reaction mixture was cooled to 20-25° C. and filtered off. The organic volatiles were evaporated. The crude product was purified by preparative TLC to obtain pure 8-(1-{2-oxo-2-[5-oxo-1-(3-trifluoromethyl-phenyl)-pyrrolidin-3-yl]-ethyl}-1H-pyrazol-4-yl)-1,3-dipropyl-7-(2-trimethylsilanyl-ethoxymethyl)-3,7-dihydro-purine-2,6-dione (0.090 g, 28%) as a brown mass.

reactant | 1,3-dipropyl-8-(1H-pyrazol-4-yl)-7-(2-trimethylsilanyl-ethoxymethyl)-3,7-dihydro-purine-2,6-dione | 0.462 mmol, 0.200 g | C(CC)N1C(N(C=2N=C(N(C2C1=O)COCC[Si](C)(C)C)C=1C=NNC1)CCC)=O | C20H32N6O3Si
reactant | 4-(2-Bromo-acetyl)-1-(3-trifluoromethyl-phenyl)-pyrrolidin-2-one | 0.693 mmol, 0.240 g | BrCC(=O)C1CC(N(C1)C1=CC(=CC=C1)C(F)(F)F)=O | C13H11BrF3NO2
reactant | Cs2CO3 | 0.924 mmol, 0.30 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 8-(1-{2-oxo-2-[5-oxo-1-(3-trifluoromethyl-phenyl)-pyrrolidin-3-yl]-ethyl}-1H-pyrazol-4-yl)-1,3-dipropyl-7-(2-trimethylsilanyl-ethoxymethyl)-3,7-dihydro-purine-2,6-dione | 0.090 g, 28% | O=C(CN1N=CC(=C1)C1=NC=2N(C(N(C(C2N1COCC[Si](C)(C)C)=O)CCC)=O)CCC)C1CN(C(C1)=O)C1=CC(=CC=C1)C(F)(F)F | C33H42F3N7O5Si
